US07423146B2
(R)-2-(4-Benzyloxy-3-nitrophenyl)oxirane
151.8 g (0.49 mol) of 1-(4-benzyloxy-3-nitrophenyl)-2-chloroethanol was dissolved in THF (0.75 L) and treated dropwise with NaOH (4 mol/L, 182 mL, 0.73 mol). After 1 hour, AcOH (30 mL) was added followed by water (2.5 L). The mixture was cooled and the precipitated product was recovered by filtration and dried under vacuum at 65° C. Yield: 133.0 g (99.3%); mass spectroscopy: [M+H]+=272; m.p.=66° C.; e.e. 99.5%.

reactant | 1-(4-benzyloxy-3-nitrophenyl)-2-chloroethanol | 0.49 mol, 151.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CCl)O)[N+](=O)[O-] | C15H14ClNO4
reactant | NaOH | 0.73 mol, 4 mol/L, 182 mL | [OH-].[Na+]
reactant | AcOH | 30 mL | CC(=O)O | C2H4O2
reactant | water | 2.5 L | O | H2O
solvent | THF | 0.75 L | C1CCOC1 | C4H8O
product | (R)-2-(4-Benzyloxy-3-nitrophenyl)oxirane | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]1OC1)[N+](=O)[O-] | C15H13NO4
